.title Web ngspice demo (auto-generated)

* --- Minimal toy models (demo) ---
.model NMOS NMOS (LEVEL=1 KP=1.20e-4 VTO=0.45 LAMBDA=0.02)
.model PMOS PMOS (LEVEL=1 KP=4.00e-5 VTO=-0.45 LAMBDA=0.02)

* --- DUT: CMOS inverter (Y A VDD VSS) ---
.subckt INV Y A VDD VSS
Mp Y A VDD VDD PMOS W=2u L=0.18u
Mn Y A VSS VSS NMOS W=1u L=0.18u
.ends INV

* --- Params from API ---
.param VDD=1.5
.param TR=1e-11
.param TF=1e-11
.param PW=5e-10
.param PER=1e-09
.param TD=0
.param CLOAD=5e-15
.temp 25.0

* --- Stimulus / DUT / Load ---
VDD  VDD  0   1.5
VIN  A    0   PULSE(0 1.5 {TD} 1e-11 1e-11 5e-10 1e-09)
XU1  y a  VDD  0  INV
Cout y 0  5e-15

* --- Analysis ---
.options method=trap reltol=1e-3 maxord=2
.tran 1e-12 3.0000000000000004e-09
* Save only asked vectors (API will fill SAVE_VECTORS)
.save time v(a) v(y)

* --- Control: run + export CSV ---
.control
  set wr_singlescale
  set filetype=ascii
  run
  wrdata /home/azeem/Desktop/wave-web/wave-backend/run_workspace/run_9tcfwr7o/sim.csv time v(a) v(y)
  * No 'quit' so interactive runs also ok
.endc

.end
